US07071175B1
TFA (2 mL) was added to a solution of 4-(3-acetylsulfanyl-2-ethoxycarbonyl-1-methyl-propyl)-piperidine-1-carboxylic acid tert-butyl ester (0.17 g, 0.439 mmol) in methylene chloride (10 mL). The reaction was stirred for 90 min and concentrated under reduced pressure. The crude product was purified using HPLC (10→50% acetonitrile in water, 0.1% TFA) to give 2-acetylsulfanylmethyl-3-piperidin4-yl-butyric acid ethyl ester (101 mg, 54%) as the TFA salt.

reactant | TFA | 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | 4-(3-acetylsulfanyl-2-ethoxycarbonyl-1-methyl-propyl)-piperidine-1-carboxylic acid tert-butyl ester | 0.439 mmol, 0.17 g | C(C)(C)(C)OC(=O)N1CCC(CC1)C(C(CSC(C)=O)C(=O)OCC)C | C19H33NO5S
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
product | 2-acetylsulfanylmethyl-3-piperidin4-yl-butyric acid ethyl ester | 101 mg, 54% | C(C)OC(C(C(C)C1CCNCC1)CSC(C)=O)=O | C14H25NO3S
